US08304546B2
To a benzene solution (50 ml) containing 3-propoxynaphthalen-2-ylamine (2.05 g, 10.18 mmol) and ethyl α-(hydroxymethylene)-4-methoxyphenylacetate (2.29 g, 10.3 mmol) was added 350 mg of Amberlyst 15 (Sigma-Aldrich). The resulting mixture was heated under reflux for 21 hours using a Dean-Stark trap. The reaction mixture was then cooled to room temperature, filtered to remove resin, and then the filtrate was concentrated under reduced pressure. Diphenyl ether (2.2 ml) was added to the residue, and the mixture was then heated with a mantle heater and stirred for 1.5 hours under reflux. The resulting reaction mixture was cooled to room temperature, and then directly purified using silica gel column chromatography (dichloromethane:methanol=100:1→60:1). The purified product was concentrated under reduced pressure to recrystallize the residue from ethyl acetate-n-hexane, giving a pale yellow powder of 2-(4-methoxyphenyl)-5-propoxy-4H-benzo[f]quinolin-1-one (1.55 g, yield: 42%).

reactant | 3-propoxynaphthalen-2-ylamine | 10.18 mmol, 2.05 g | C(CC)OC=1C(=CC2=CC=CC=C2C1)N | C13H15NO
reactant | ethyl α-(hydroxymethylene)-4-methoxyphenylacetate | 10.3 mmol, 2.29 g | OC=C(C(=O)OCC)C1=CC=C(C=C1)OC | C12H14O4
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 2-(4-methoxyphenyl)-5-propoxy-4H-benzo[f]quinolin-1-one | 1.55 g, yield: 42% | COC1=CC=C(C=C1)C1=CNC=2C(=CC3=C(C2C1=O)C=CC=C3)OCCC | C23H21NO3
